US05189049
A') Benzyl indole-2-carboxylate
5 g of N,N'-carbonyldiimidazole are introduced into a solution of 5 g of indole-2-carboxylic acid in 50 ml of dry tetrahydrofuran; after stirring for 12 hours at ambient temperature, 3.7 g of benzyl alcohol are added and the reaction mixture is brought to its reflux temperature; this is maintained for 8 hours, before removing the solvent by distillation under reduced pressure. The residue is dissolved in ethyl acetate and the organic phase is washed with a N aqueous NaOH solution and then dried before evaporation of the solvent.

reactant | indole-2-carboxylic acid | 5 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | benzyl alcohol | 3.7 g | C(C1=CC=CC=C1)O | C7H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Benzyl indole-2-carboxylate | N1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
